Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Bike accident 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ with h/o T2DM presenting after a bike
accident. He reports he was biking this afternoon when he rode
off the lip of the road and hit his left side. He does not
remember the bike accident well, but does remember picking
himself up from it. He then rode with a friend 20 mins to his
friend's home and from which his friend drove him 20 mins to the
ED. He reports having memory issues--forgetting reason for
upcoming appointment, forgetting what he did 
yesterday--following
the crash which resolved after about an hour. He notes pain in
his left shoulder and back. He was wearing a helmet and does not
think he lost consciousness. He denies LOC, nausea, fever,
vomiting. He denies changes to vision, hearing, and speech. 

 
Past Medical History:
T2DM, HLD

 
Social History:
___
Family History:
Mother, Father, Sisters T2DM.

 
Physical Exam:
Upon arrival:
VS: Tmp 97.3 HR 65 BP 121/70 RR 14 95% RA 
GENERAL: Awake, alert and oriented. Well-appearing, NAD. Pain
___.
HEENT: Anicteric with pupils equal and round.
HEART: Regular rate and rhythm. Normal S1, S2, no rubs, murmurs,
gallops.
LUNGS: Clear to auscultation on the left, low pitch wheeze heard
on expiration on right. Able to take deep breaths without pain.
BACK: T-spine tender to palpation between shoulder blades and
L-spine tender palpation
ABDOMINAL: Nl bowel sounds. Abdomen tympanic to percussion. 
Soft,
non-distended, non-tender. 
NEUROLOGIC: Face grossly symmetric, moving all extremities,
hearing grossly intact with aid.
SKIN: Abrasion noted on posterior left shoulder, swelling noted
around left clavicle.

Upon Discharge:
VS: Tmp  HR  BP  RR  RA 
GENERAL: Awake, alert and oriented. Well-appearing, NAD. Pain
___.
HEENT: Anicteric with pupils equal and round.
HEART: Regular rate and rhythm. Normal S1, S2, no rubs, murmurs,
gallops.
LUNGS: Clear to auscultation on the left, low pitch wheeze heard
on expiration on right. Able to take deep breaths without pain.
BACK: T-spine tender to palpation between shoulder blades and
L-spine tender palpation
ABDOMINAL: Nl bowel sounds. Abdomen tympanic to percussion. 
Soft,
non-distended, non-tender. 
NEUROLOGIC: Face grossly symmetric, moving all extremities,
hearing grossly intact with aid.
SKIN: Abrasion noted on posterior left shoulder, swelling noted
around left clavicle.
EXTREMITIES: Decreased range of motion on left arm/shoulder, 
tender to palpation over deltoid

 
Pertinent Results:
___ 08:50PM BLOOD WBC-9.9 RBC-3.67* Hgb-12.0* Hct-35.5* 
MCV-97 MCH-32.7* MCHC-33.8 RDW-12.2 RDWSD-42.6 Plt ___
___ 08:50PM BLOOD Glucose-140* UreaN-14 Creat-0.9 Na-141 
K-3.8 Cl-103 HCO3-27 AnGap-15

Imaging:
CT head w/o contrast: No acute intracranial process.

CT spine w/o contrast (prelim): Fractures of the left T1 and T2
transverse processes. Nondisplaced fractures of the posterior
medial left first and second ribs and posterior left fourth rib.
Focal induration of the left supraclavicular soft tissue/
posterior to the left midclavicle may be due to hematoma.

Glenohumeral shoulder, left (prelim): Mild displaced fracture of
the mid distal left clavicle with widening of the
coracoclavicular interval to 16 mm. The left acromioclavicular
articulation  appears intact. Left-sided upper thoracic rib
fracture seen on cervical spine CT are better seen on that 
study.

Clavicle, left: There is a minimally displaced fracture of the
left midclavicle with apex superior angulation.  There is
widening of the left coracoclavicular interval on these images 
to
approximately 22 mm.  The left acromioclavicular interval 
appears
normal. Left T1 and T2 transverse process fractures as well as
upper left-sided rib fractures seen on prior cervical spine CT
were better assessed on that study.

Chest, PA and lat (prelim): Slight blunting of the left
costophrenic angle could be due a trace pleural effusion versus
pleural thickening. Left-sided upper thoracic fracture seen on
cervical spine CT were better seen on that study.

CT Torso (prelim):
1. Again seen are the known minimally displaced fractures of the
left T1 and T2 transverse processes, and the mildly displaced 
mid
to distal left clavicular fracture. 
  
2. In addition to the previously described rib fractures, there
are also fractures of the posterior left ___, and 12th ribs. 
  
3. Left greater than right small pleural effusions. No evidence
of pneumothorax.

 
Brief Hospital Course:
 Mr. ___ is a ___ with h/o T2DM presenting after a bike 
accident. He reports he was biking this afternoon when he rode 
off the lip of the road and hit his left side. Patient was 
evaluated in the ER in which he was found to have a mild 
displaced fracture of the mid distal left clavicle & left-sided 
upper thoracic fracture. Patient was subsequently admitted for 
pain management and proper evaluation. Upon admission patient 
was seen by the ___ diabetes service for his uncontrolled 
diabetes which recommended adjustment on his lantus to 15 U & 
decrease prandial Humalog to 4 U; Orthopedic service 
recommendations were as follow:
- No acute surgical intervention.
- Activity: NWB LUE, sling for comfort
- Analgesia: per primary
- Follow up in Ortho Trauma clinic in ___ weeks

 Upon discharge pain was given the recommendations given above 
and the necessary information for further follow up 
appointments. Patient was cleared by occupational therapy and it 
was determined that he would need outpatient physical therapy 
but no ___ assistance.
 
Medications on Admission:
Metformin, insulin, atorvastatin, tamsulosin
 
Discharge Medications:
1. Acetaminophen 650 mg PO TID 
2. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
3. Senna 8.6 mg PO BID:PRN constipation 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left clavicle fracture, multiple left-sided rib fractures, and 
left T1-T2 TP fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
  Your injury caused a left clavicle fracture & multiple 
left-sided rib fractures which can cause severe pain and 
subsequently cause you to take shallow breaths because of the 
pain.
 
*  You should take your pain medication as directed to stay 
ahead of the pain otherwise you won't be able to take deep 
breaths. If the pain medication is too sedating take half the 
dose and notify your physician.
 
*  Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
*  You will be more comfortable if you use a cough pillow to 
hold against your chest and guard your rib cage while coughing 
and deep breathing.
 
*  Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
*  Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
*  Do NOT smoke
 
*  If your doctor allows, non steroidal antiinflammatory drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
*  Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs ( crepitus ).
 
Followup Instructions:
___